US05708173
A mixture of 8-[2,6-dichloro-3-[N-(phthalimidoacetyl)-N-methylamino]benzyloxy]-2-methylquinoline (3.98 g), hydrazine monohydrate (0.72 ml) and ethanol (40 ml) was heated under reflux for 1 hour. The precipitate was removed by vacuum filtration and the filtrate was evaporated in vacuo. The residue was dissolved with dichloromethane and the precipitate was removed by vacuum filtration. The filtrate was evaporated in vacuo to give 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline (2.99 g) as a yellow amorphous powder.

reactant | 8-[2,6-dichloro-3-[N-(phthalimidoacetyl)-N-methylamino]benzyloxy]-2-methylquinoline | 3.98 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)Cl | C28H21Cl2N3O4
reactant | hydrazine monohydrate | 0.72 ml | O.NN
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline | 2.99 g | NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C20H19Cl2N3O2
